US05763489
To a solution of diethylphosphoric acid ethyl ester (19 g) in dimethoxyethane (200 ml) was added NaH (3.4 g, 60% in oil) at 0° C. under N2. After being stirred for 30 minutes, 5-t-butyldiphenylsilyloxy-1-oxo-1,2,3,4-tetrahydronaphthalene (20 g) was added to the mixture. After being stirred for 12 hours at 80° C., the solution was poured into a mixture of ethyl acetate and water. The organic layer was washed with 1N--HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was dissolved into a mixture of toluene (100 ml) and 1,8-diazabicyclo[5.4.0]-7-undecene (17 ml) and the mixture was stirred for 3 days at 100° C. The solution was washed with 1N--HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 5-t-butyldiphenylsilyloxy-1-ethoxycarbonylmethyl-3,4-dihydronaphthalene (20.3 g).

reactant | NaH | 3.4 g | [H-].[Na+]
reactant | 5-t-butyldiphenylsilyloxy-1-oxo-1,2,3,4-tetrahydronaphthalene | 20 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCCC(C2=CC=C1)=O | C26H28O2Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
product | 5-t-butyldiphenylsilyloxy-1-ethoxycarbonylmethyl-3,4-dihydronaphthalene | 20.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCC=C(C2=CC=C1)CC(=O)OCC | C30H34O3Si
